US05420115
6-(Cyclopropylamino)-9-(2-deoxy-2-fluoro-β-D-ribofuranosyl)-9H-purine
6-(Cyclopropylamino)-9H-purine (0.2 g, 1.1 mmoles) and 1-(2-deoxy-2-fluoro-β-D-ribofuranosyl)uracil (0.4 g, 1.6 mmoles) which may be prepared according to J. F. Codington et al. (J. Org. Chem. 29:558, 1964) were suspended in 20 ml of 5 mM potassium phosphate buffer, pH 7.0, which contained 0.04% (w/v) potassium azide. The pH of the suspension was adjusted to 7.0 with KOH. Thymidine phosphorylase (2,000 I.U.) and purine nucleoside phosphorylase (5,540 I.U.) (T. A. Krenitsky et al., Biochemistry 20:3615, 1981 and U.S. Pat. No. 4,381,344) were added and the suspension stirred at 37° C. On day 5, 0.2 g of 6-(cyclopropylamino)purine and 2,000 I.U. of thymidine phosphorylase and 5,540 I.U. of purine nucleoside phosphorylase were added. On day 9, 0.2 g of 6 (cyclopropylamino) purine was added and the pH of the reaction was adjusted to 7.0 with KOH. Thymidine phosphorylase (2,000 I.U.) and purine nucleoside phosphorylase (5,540 I.U.) were added. On day 20, the pH of the reaction was adjusted to 9.4 with NH4OH and the reaction was applied to a 2.5×8.5 cm column of anion exchange resin (Bio-Rad AG1X2-hydroxide form). After washing with water, the product was eluted with water/methanol (7/3). Product-containing fractions were combined and the solvent removed under vacuum. The residue was dissolved in water and lyophilized to obtain title compound that analyzed as a 0.4 hydrate.

reactant | 6-(Cyclopropylamino)-9H-purine | 1.1 mmoles, 0.2 g | C1(CC1)NC1=C2N=CNC2=NC=N1 | C8H9N5
reactant | 1-(2-deoxy-2-fluoro-β-D-ribofuranosyl)uracil | 1.6 mmoles, 0.4 g | F[C@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C(=O)NC(=O)C=C1 | C9H11FN2O5
reactant | potassium azide | [N-]=[N+]=[N-].[K+]
reactant | KOH | [OH-].[K+]
reactant | Thymidine | [C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C(C)=C1 | C10H14N2O5
reactant | 6-(cyclopropylamino)purine | 0.2 g | C1(CC1)NC1=C2NC=NC2=NC=N1 | C8H9N5
reactant | (cyclopropylamino) purine | C1(CC1)NC1=NC=C2NC=NC2=N1 | C8H9N5
reactant | NH4OH | [NH4+].[OH-]
solvent | potassium phosphate | 5 mM, 20 ml | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
product | 6-(Cyclopropylamino)-9-(2-deoxy-2-fluoro-β-D-ribofuranosyl)-9H-purine | C1(CC1)NC1=C2N=CN(C2=NC=N1)[C@H]1[C@@H]([C@H](O)[C@H](O1)CO)F | C13H16FN5O3
